US07253286B2
t-Butyl4-{[(4-{4-[(anilinocarbonyl)amino]-3-chlorophenoxy}-2-pyridyl)amino]carbonyl}-1-piperidinecarboxylate
t-Butyl 4-{[(4-{3-chloro-4-[(phenoxycarbonyl)amino]phenoxy}-2-pyridyl)amino]carbonyl}-1-piperidine carboxylate (250 mg), aniline (84 mg) and dimethylformamide (3 ml) were stirred at 130° C. for 70 minutes. The mixture was returned to room temperature, water was added and extraction was performed with ethyl acetate. Silica gel was added to the extract, the solvent was distilled off under reduced pressure, and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with silica gel, and column purification was performed (hexane:ethyl acetate=1:1, followed by ethyl acetate). The solvent was distilled off under reduced pressure to obtain 120 mg of a colorless oil.

reactant | t-Butyl 4-{[(4-{3-chloro-4-[(phenoxycarbonyl)amino]phenoxy}-2-pyridyl)amino]carbonyl}-1-piperidine carboxylate | 250 mg | ClC=1C=C(OC2=CC(=NC=C2)NC(=O)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1NC(=O)OC1=CC=CC=C1 | C29H31ClN4O6
reactant | aniline | 84 mg | NC1=CC=CC=C1 | C6H7N
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | t-Butyl4-{[(4-{4-[(anilinocarbonyl)amino]-3-chlorophenoxy}-2-pyridyl)amino]carbonyl}-1-piperidinecarboxylate | 120 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=CC=CC=C1)Cl | C29H32ClN5O5
